US05286728
Analogously to Example 7, 1-[2-(4-chlorophenyl)ethyl]piperazine and 4-chloroacetylaminocinnamic acid chloride are reacted to form 1-{3-[4-(N-chloroacetylamino)phenyl]prop-2-en-1-on-yl}-4-[2-(4-chlorophenyl)ethyl]piperazine.

reactant | 1-[2-(4-chlorophenyl)ethyl]piperazine | ClC1=CC=C(C=C1)CCN1CCNCC1 | C12H17ClN2
reactant | 4-chloroacetylaminocinnamic acid chloride | ClCC(=O)NC1=CC=C(C=CC(=O)Cl)C=C1 | C11H9Cl2NO2
product | 1-{3-[4-(N-chloroacetylamino)phenyl]prop-2-en-1-on-yl}-4-[2-(4-chlorophenyl)ethyl]piperazine | ClCC(=O)NC1=CC=C(C=C1)C=CC(=O)N1CCN(CC1)CCC1=CC=C(C=C1)Cl | C23H25Cl2N3O2
